US07777038B2
8-Methoxy-2-oxo-1,2,3,4-tetrahydroquinoline-5-carboxaldehyde (42 g) was suspended in toluene (400 ml), and ethylene glycol (33.7 ml) and p-toluenesulfonic acid monohydrate (0.78 g) were added, and the resulting mixture was heated under reflux in a Dean-Stark apparatus for 4.5 hours. The reaction mixture was cooled, and 10 ml of an aqueous solution containing 1.72 g of sodium bicarbonate was added. Stirring was carried out for some time, and the produced solid was collected by filtration. The solid was washed with water and toluene and dried at 60° C. to thereby obtain 35.5 g (yield: 70%) of 5-(1,3-dioxolan-2-yl)-8-methoxy-3,4-dihydro-1H-quinolin-2-one as white crystals.

reactant | 8-Methoxy-2-oxo-1,2,3,4-tetrahydroquinoline-5-carboxaldehyde | 42 g | COC1=CC=C(C=2CCC(NC12)=O)C=O | C11H11NO3
reactant | ethylene glycol | 33.7 ml | C(CO)O | C2H6O2
reactant | sodium bicarbonate | 1.72 g | C([O-])(O)=O.[Na+]
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 0.78 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 5-(1,3-dioxolan-2-yl)-8-methoxy-3,4-dihydro-1H-quinolin-2-one | 35.5 g, yield: 70% | O1C(OCC1)C1=C2CCC(NC2=C(C=C1)OC)=O | C13H15NO4
